US04701465
Synthesis of N-(3-phenoxy)propionyl-prolinal (Compound No. 21)
A mixture of N-(3-phenoxy)propionyl-prolinol (1.4 g) and triethylamine (1.7 g) was dissolved in anhydrous dimethyl sulfoxide (16 ml), and to the stirred solution, a solution (16 ml) of sulfur trioxide-pyridine complex (2.6 g) in dimethyl sulfoxide was added. After stirring the mixture at room temperature for 10 minutes, the reaction solution was poured into iced water (150 ml) and subjected to extraction with ethyl acetate. The extract was washed successively with 10% aqueous citric acid, water, saturated aqueous sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. After distilling off the solvent under vacuum, the resulting crude product was purified by medium-pressure liquid column chromatography on silica gel (solvent: chloroform) to obtain the end compound as an oil (1.2 g).

reactant | N-(3-phenoxy)propionyl-prolinol | 1.4 g | O(C1=CC=CC=C1)CCC(=O)N1[C@H](CO)CCC1 | C14H19NO3
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | water | 150 ml | O | H2O
solvent | dimethyl sulfoxide | 16 ml | CS(=O)C | C2H6OS
product | N-(3-phenoxy)propionyl-prolinal | 1.2 g | O(C1=CC=CC=C1)CCC(=O)N1[C@H](C=O)CCC1 | C14H17NO3
